US07435837B2
Treatment of (±)-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide (1.82 g, 7.07 mmol) with palladium on carbon (0.18 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.642 g (34%) of (±)-1-[7-(3,3-dimethylbutyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 158-160° C.; Anal. calcd. for C15H23NOHCl: C, 66.77; H, 8.97; N, 5.19. Found: C, 66.31; H, 8.56; N, 5.09.

reactant | (±)-{7-[(1E)-3,3-dimethylbut-1-enyl]-2,3-dihydro-1-benzofuran-2-yl}methyl azide | 7.07 mmol, 1.82 g | CC(/C=C/C1=CC=CC=2CC(OC21)CN=[N+]=[N-])(C)C | C15H19N3O
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
product | (±)-1-[7-(3,3-dimethylbutyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.642 g, 34% | CC(CCC1=CC=CC=2CC(OC21)CN)(C)C | C15H23NO
